US20010021718A1
tert-Butyl (3R)-6-cyclohexyl-3-(3-{[(2-methoxy-2-oxoethyl)(methyl)amino]carbonyl)1 ,2,4-oxadiazol-5-yl)hexanoate
A solution of tert-butyl (3R)-6-cyclohexyl-3-(3-{[(2-methoxy-2-oxoethyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoate (Preparation 37) (440 mg, 1.00 mmol) in anhydrous dimethylsulphoxide (10 ml) was treated with iodomethane (310 μl, 5.00 mmol) and cesium carbonate (975 mg, 3.00 mmol) and the resulting mixture was heated at 40° under a nitrogen atmosphere for 3 hours then stirred at room temperature for 17 hours. The mixture was diluted with water and extracted with diethyl ether (×3). The combined organic extracts were washed with brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with hexane:ethyl acetate (2:1) to afford the title compound as a colourless oil (315 mg)

reactant | tert-butyl (3R)-6-cyclohexyl-3-(3-{[(2-methoxy-2-oxoethyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoate | 1.00 mmol, 440 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)NCC(=O)OC | C22H35N3O6
reactant | iodomethane | 5.00 mmol, 310 μl | IC | CH3I
reactant | cesium carbonate | 3.00 mmol, 975 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | tert-Butyl (3R)-6-cyclohexyl-3-(3-{[(2-methoxy-2-oxoethyl)(methyl)amino]carbonyl)1 ,2,4-oxadiazol-5-yl)hexanoate | 315 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)N(C)CC(=O)OC | C23H37N3O6
